US06025375
A suspension of 2-[(1RS,2SR)-1-hydroxy-2-[(3-methoxyphenyl)methyl]cyclohexyl]-4,5-diphenyloxazole (2.23 g) and DL-methionine (7.56 g) in methanesulfonic acid (33.0 ml) was stirred at 60° C. for 17 hours, then another DL-methionine (7.56 g) and methanesulfonic acid (33.0 ml) was added thereto. The mixture was stirred at the same temperature for 23 hours and poured into ice-water. The resulting aqueous mixture was extracted three times with ethyl acetate. The extracts were combined, washed with sodium bicarbonate aqueous solution and brine, dried over magnesium sulfate, and evaporated in vacuo. The residue was chromatographed (n-hexane-diethyl ether (100:20)) over silica gel. The first eluate afforded 2-[6-[(3-hydroxyphenyl)methyl]-1-cyclohexen-1-yl]-4,5-diphenyloxazole (897 mg) as paste.

reactant | 2-[(1RS,2SR)-1-hydroxy-2-[(3-methoxyphenyl)methyl]cyclohexyl]-4,5-diphenyloxazole | 2.23 g | OC1(C(CCCC1)CC1=CC(=CC=C1)OC)C=1OC(=C(N1)C1=CC=CC=C1)C1=CC=CC=C1 | C29H29NO3
reactant | DL-methionine | 7.56 g | NC(CCSC)C(=O)O | C5H11NO2S
reactant | DL-methionine | 7.56 g | NC(CCSC)C(=O)O | C5H11NO2S
solvent | methanesulfonic acid | 33.0 ml | CS(=O)(=O)O | CH4O3S
solvent | methanesulfonic acid | 33.0 ml | CS(=O)(=O)O | CH4O3S
product | 2-[6-[(3-hydroxyphenyl)methyl]-1-cyclohexen-1-yl]-4,5-diphenyloxazole | 897 mg | OC=1C=C(C=CC1)CC1CCCC=C1C=1OC(=C(N1)C1=CC=CC=C1)C1=CC=CC=C1 | C28H25NO2
